US04590180
A mixture of 28.6 g of 6-chloro-9(β-D-ribofuranosyl)-purine, 23.6 g of 2-amino-3-p-chlorophenylbicyclo[2,2,2]octane, 450 ml of dimethylformamide, 450 ml of isopropanol and 50 ml of triethylamine is left to stand at 20° for 4 days. The mixture is evaporated, the residue is dissolved in chloroform, the chloroform solution is washed with 1% aqueous acetic acid and evaporated again and the residue is triturated with ether to give N6 -[2-(4-chlorophenyl)-bicyclo[2,2,2]oct-3-yl]-adenosine (Ia). M.p.: 145° (decomposition). Rf: 0.41 (silica gel; CH2Cl2 :CH3OH 9:1).

reactant | 6-chloro-9(β-D-ribofuranosyl)-purine | 28.6 g | ClC1=C2N=CN(C2=NC=N1)[C@H]1[C@H](O)[C@H](O)[C@H](O1)CO | C10H11ClN4O4
reactant | 2-amino-3-p-chlorophenylbicyclo[2,2,2]octane | 23.6 g | NC1C2CCC(C1C1=CC=C(C=C1)Cl)CC2 | C14H18ClN
reactant | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
reactant | isopropanol | 450 ml | C(C)(C)O | C3H8O
solvent | triethylamine | 50 ml | C(C)N(CC)CC | C6H15N
product | N6 -[2-(4-chlorophenyl)-bicyclo[2,2,2]oct-3-yl]-adenosine | ClC1=CC=C(C=C1)C1C2CCC(C1NC=1C=3N=CN([C@H]4[C@H](O)[C@H](O)[C@@H](CO)O4)C3N=CN1)CC2 | C24H28ClN5O4
